US05449785
A mixture of 3-amino-1-[(1S*,2R*)-5,5-dimethyl-2-octyloxycyclohexyl]-2-propanol (50 mg), S-t-butyloxycarbonyl-4,6-dimethyl-2-mercaptopyridine (46 mg) and triethylamine (20 ml) in methanol (1.5 ml) was stirred at room temperature for 2 hrs. Water was added to a reaction mixture and the mixture was partitioned between water and ether. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification of the residue by silica gel chromatography (using n-hexane:ethylacetate=5:1 as an eluent) gave 3-[(tert-butoxycarbonyl)amino]-1-[(1S*,2R*)-5,5-dimethyl-2-octyloxycyclohexyl]-2-propanol (55 mg, y. 83%); EI-MS: m/z 395 (M+ -H2O).

reactant | 3-amino-1-[(1S*,2R*)-5,5-dimethyl-2-octyloxycyclohexyl]-2-propanol | 50 mg | NCC(C[C@H]1[C@@H](CCC(C1)(C)C)OCCCCCCCC)O | C19H39NO2
reactant | S-t-butyloxycarbonyl-4,6-dimethyl-2-mercaptopyridine | 46 mg | C(C)(C)(C)OC(=O)SC1=NC(=CC(=C1)C)C | C12H17NO2S
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | methanol | 1.5 ml | CO | CH4O
product | 3-[(tert-butoxycarbonyl)amino]-1-[(1S*,2R*)-5,5-dimethyl-2-octyloxycyclohexyl]-2-propanol | 55 mg, 83% | C(C)(C)(C)OC(=O)NCC(C[C@H]1[C@@H](CCC(C1)(C)C)OCCCCCCCC)O | C24H47NO4
